US06995171B2
C. (3R,4R)-(3,4-Dimethoxy-pyrrolidin-1-yl)-[7-(2-methyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridin-2-yl]-methanone
The title compound was prepared from (3R,4R)-(7-chloro-thieno[3,2-b]pyridin-2-yl)-(3,4-dimethoxy-pyrrolidin-1-yl)-methanone and 2-methyl-1H-indol-5-ol by a procedure analogous to Example 1F. MS 438.3 (MH+); HPLC Rf: 5.554 min.; HPLC purity: 97%.

reactant | (3R,4R)-(7-chloro-thieno[3,2-b]pyridin-2-yl)-(3,4-dimethoxy-pyrrolidin-1-yl)-methanone | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2C[C@H]([C@@H](C2)OC)OC | C14H15ClN2O3S
reactant | 2-methyl-1H-indol-5-ol | CC=1NC2=CC=C(C=C2C1)O | C9H9NO
product | (3R,4R)-(3,4-Dimethoxy-pyrrolidin-1-yl)-[7-(2-methyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridin-2-yl]-methanone | CO[C@@H]1CN(C[C@H]1OC)C(=O)C1=CC2=NC=CC(=C2S1)OC=1C=C2C=C(NC2=CC1)C | C23H23N3O4S
